US07326791B2
(a) 4-(2,3-dihydroimidazo[2,1-b]thiazol-5-yl)benzonitrile
3.00 g (12.72 mmol) of 4-bromoacetylbenzonitrile is dissolved in 40 mL acetonitrile, and combined with 2.65 g (25.42 mmol) of 2-amino-4,5-dihydrothiazole and 2.00 g of molecular sieve 4 Å. Then the mixture is stirred for 2.5 days at ambient temperature. Then the solvent is eliminated in vacuo, and the residue is taken up with 100 mL of 1 molar hydrochloric acid solution and the insoluble matter is taken up with a little methanol and concentrated ammonia solution. After filtration, the filtrate is concentrated in vacuo and purified by chromatography on silica gel (gradient: initially ethyl acetate/ethanol=100:0 □40:60+0.5% ammonia, then dichloromethane/methanol=6:4+2% triethylamine). Yield: 2.4 g; Rf value: 0.65 (silica gel; ethyl acetate/ethanol=8:2+1% ammonia); C12H9N3S (227.29); mass spectrum: (M+H)+=228

reactant | 4-bromoacetylbenzonitrile | 12.72 mmol, 3.00 g | BrCC(=O)C1=CC=C(C#N)C=C1 | C9H6BrNO
reactant | 2-amino-4,5-dihydrothiazole | 25.42 mmol, 2.65 g | NC=1SCCN1 | C3H6N2S
reactant | hydrochloric acid | 1 molar, 100 mL | Cl | ClH
reactant | ammonia | N | H3N
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
product | 4-(2,3-dihydroimidazo[2,1-b]thiazol-5-yl)benzonitrile | S1C=2N(CC1)C(=CN2)C2=CC=C(C#N)C=C2 | C12H9N3S
